US04432974
2,3-Bis(4-methoxyphenyl)-5-(dimethylsilyl)thiophene
A solution of 2,3-bis(4-methoxyphenyl)thiophene (5.92 g, 20 mmole) in 100 ml diethyl ether/20 ml toluene was treated with 1.6 M n-butyl lithium (14 ml, 1.12 equiv.) and heated at reflux for 1.5 hours. The reaction mixture was cooled to -76° and cannulated into a solution of dimethyldichlorosilane (4.6 ml, 1.9 equiv.) in 40 ml diethyl ether at -76°. After 2.5 hours, the reaction mixture was treated with a diisobutylaluminum hydride tetramethylethylenediamine complex prepared by addition of tetramethylethylenediamine (9.9 ml, 66 mmole) to 1 M diisobutylaluminum hydride in hexane (66 ml, 66 mmole). The reaction mixture was stirred 2 hours at 0°, recooled to -30° and quenched with saturated aqueous potassium-sodium tartrate.

reactant | 2,3-bis(4-methoxyphenyl)thiophene | 20 mmole, 5.92 g | COC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)OC | C18H16O2S
reactant | n-butyl lithium | 1.6 M, 14 ml, 1.12 equiv. | C(CCC)[Li]
reactant | dimethyldichlorosilane | 4.6 ml, 1.9 equiv. | C[Si](Cl)(Cl)C | C2H6Cl2Si
reactant | tetramethylethylenediamine | 66 mmole, 9.9 ml | CN(CCN(C)C)C | C6H16N2
reactant | diisobutylaluminum hydride | 1 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hexane | 66 mmole, 66 ml | CCCCCC | C6H14
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 2,3-Bis(4-methoxyphenyl)-5-(dimethylsilyl)thiophene | COC1=CC=C(C=C1)C=1SC(=CC1C1=CC=C(C=C1)OC)[SiH](C)C | C20H22O2SSi
